US07402598B2
(ii) 8-(Benzyloxy)-5-[(1R)-2-bromo-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one
A suspension of 8-(benzyloxy)-5-[(1R)-2-bromo-1-hydroxyethyl]quinolin-2(1H)-one (100 mg) and pyridinium tosylate (14 mg) in dry DCM (2 ml) was treated with 2,3-dihydropyran (61.2 μl) and stirred at 22° C. for 18 h. The reaction mixture was concentrated in vacuo and purified by chromatography (Hexane-EtOAc 2:1, biotage) to give the title compound (77 mg). Rf [EtOAc-Hexane (1:1)] 0.54

reactant | 8-(benzyloxy)-5-[(1R)-2-bromo-1-hydroxyethyl]quinolin-2(1H)-one | 100 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CBr)O | C18H16BrNO3
reactant | pyridinium tosylate | 14 mg | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH+]1=CC=CC=C1
reactant | 2,3-dihydropyran | 61.2 μl | O1CCCC=C1 | C5H8O
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 8-(Benzyloxy)-5-[(1R)-2-bromo-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one | 77 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CBr)OC1OCCCC1 | C23H24BrNO4
